* H:\Documents\GitHub\Simple-GPSDO\sim\output-amplifier-sim.asc
V1 N001 0 5V
V2 N003 0 PULSE(0.5 4.5 0 6n 6n 50n 100n)
C1 N004 0 750p
L2 N004 N002 470n
C2 OUT1 N002 0.1µ
R2 OUT1 0 50
XU1 N003 N004 N001 0 N004 TLV354
C3 N002 0 430p
C4 OUT2 N002 0.1µ
R1 OUT2 0 50
.tran 0 101u 100u
.lib H:\Downloads\sboma83a\TLV354.LIB
.backanno
.end
