* H:\Documents\GitHub\Simple-GPSDO\sim\Output Amplifier\output-amplifier-sim.asc
V1 +5V 0 5V
V2 IN 0 PULSE(0 4 0 6n 6n 50n 100n) Rser=127
R2 OUT1 0 50
R1 0 OUT2 50
C4 SINE N001 0.1µ
R6 OUT2 OUT1 100
L3 SINE OUT2 1µ
L4 SINE OUT1 1µ
C7 OUT1 0 330p
C8 0 OUT2 330p
C9 SINE 0 330p
XU1 IN N001 +5V 0 N001 TLV354
.tran 0 100.5u 100u
.lib H:\Downloads\sboma83a\TLV354.LIB
.backanno
.end
